US07576063B2
4-Benzyl-3-(β-D-glucopyranosyloxy)-1,5-diisopropyl-1H-pyrazole
To a suspension of 4-benzyl-1,5-diisopropyl-1,2-dihydro-3H-pyrazole-3-one (0.078 g), acetobromo-α-D-glucose (0.62 g) and benzyl (n-tributyl)ammonium bromide (0.054 g) in dichioromethane (4 mL) was added a sodium hydroxide aqueous solution (5 mol/L, 0.6 mL) and the mixture was stirred at room temperature for 2 hours. The reaction mixture was purified by column chromatography on aminopropylated silica gel (eluent: tetrahydrofuran). The obtained semi purified 4-benzyl-1,5diisopropyl-3-(2,3,4,6-tetraacetyl-1β-D-glucopyranosyloxy)-1H-pyrazole was dissolved in methanol (3 mL), and sodium methoxide (28% methanol solution, 0.58 mL) was added to the solution. The mixture was stirred at room temperature for 2 hours. The solvent of the reaction mixture was removed under reduced pressure, and the residue was acidified by adding 10% citric acid aqueous solution. The mixture was purified by solid phase extraction on ODS (washing solvent: water, eluent: methanol). Further purification by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) gave the title compound (0.11 g).

reactant | 4-benzyl-1,5-diisopropyl-1,2-dihydro-3H-pyrazole-3-one | 0.078 g | C(C1=CC=CC=C1)C=1C(NN(C1C(C)C)C(C)C)=O | C16H22N2O
reactant | acetobromo-α-D-glucose | 0.62 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | sodium hydroxide | 5 mol/L, 0.6 mL | [OH-].[Na+]
solvent | dichioromethane | 4 mL | ClCCl | CH2Cl2
product | 4-Benzyl-3-(β-D-glucopyranosyloxy)-1,5-diisopropyl-1H-pyrazole | 0.11 g | C(C1=CC=CC=C1)C=1C(=NN(C1C(C)C)C(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C22H32N2O6
